US08278441B2
(4aR,7aS)-7a-(3-(Pyrimidin-5-yl)phenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-amine dihydrochloride
To the solution of (4aR,7aS)-7a-(3-(pyrimidin-5-yl)phenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-amine (0.482 g, 1.55 mmol) in methanol (2 mL) is added 4 N HCl in 1,4-dioxane (2 mL) at room temperature. The resulting mixture is stirred at room temperature for 1 hour and is concentrated under reduced pressure to give the title compound (0.595 g, 100%). ES/MS m/e: 311 (M+1).

reactant | (4aR,7aS)-7a-(3-(pyrimidin-5-yl)phenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-amine | 1.55 mmol, 0.482 g | N1=CN=CC(=C1)C=1C=C(C=CC1)[C@@]12N=C(SC[C@@H]1CCC2)N | C17H18N4S
reactant | HCl | 4 N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (4aR,7aS)-7a-(3-(Pyrimidin-5-yl)phenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-amine dihydrochloride | 0.595 g, 100% | Cl.Cl.N1=CN=CC(=C1)C=1C=C(C=CC1)[C@@]12N=C(SC[C@@H]1CCC2)N | InChI=1S/C17H18N4S.2ClH/c18-16-21-17(6-2-5-15(17)10-22-16)14-4-1-3-12(7-14)13-8-19-11-20-9-13;;/h1,3-4,7-9,11,15H,2,5-6,10H2,(H2,18,21);2*1H/t15-,17+;;/m0../s1
